US09227933B2
(S)-3-[1-(2,3,6-Trichlorophenoxyl)prop-2-ynyl]pyrrolidine
A mixture of (S)-3-(1-hydroxyprop-2-ynyl)pyrrolidine-1-carboxylic acid t-butyl ester (21.0 mg, 93.2 μmol) and DIAD (22.0 μL, 112 μmol) was dissolved in toluene (65 μL, 610 μmol) at room temperature. PPh3 (29.3 mg, 112 μmol) and 2,3,6-trichlorophenol (20.2 mg, 102 μmol) were dissolved in toluene (0.1 mL, 1 mmol) and heated at 100° C. The t-butyl ester mixture was slowly added into the phenol mixture at 100° C., and stirred for 1 hour. The mixture was then removed from the heat and stirred at room temperature overnight. The mixture was then concentrated and the resulting residue was treated with 1.25M HCl in EtOH (0.6 mL, 0.8 mmol) at room temperature overnight. The mixture was concentrated and the residue was redissolved in a mixture of 50% AcOH/H2O (1.4 mL) and McCN (0.2 mL), filtered and purified by reverse phase preparative HPLC to yield the title compound as a mono-TFA salt (21.2 mg, 99% purity). MS in/z: [M+H]+ calcd for C13H12Cl3NO, 304.00. found 304.0.

reactant | (S)-3-(1-hydroxyprop-2-ynyl)pyrrolidine-1-carboxylic acid t-butyl ester | 93.2 μmol, 21.0 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C(C#C)O | C12H19NO3
reactant | DIAD | 112 μmol, 22.0 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | toluene | 610 μmol, 65 μL | C1(=CC=CC=C1)C | C7H8
reactant | PPh3 | 112 μmol, 29.3 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2,3,6-trichlorophenol | 102 μmol, 20.2 mg | ClC1=C(C(=CC=C1Cl)Cl)O | C6H3Cl3O
reactant | toluene | 1 mmol, 0.1 mL | C1(=CC=CC=C1)C | C7H8
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | HCl | 1.25M | Cl | ClH
reactant | EtOH | 0.8 mmol, 0.6 mL | CCO | C2H6O
product | (S)-3-[1-(2,3,6-Trichlorophenoxyl)prop-2-ynyl]pyrrolidine | ClC1=C(OC(C#C)[C@@H]2CNCC2)C(=CC=C1Cl)Cl | C13H12Cl3NO
